US05830919
EXAMPLE 3: N-benzoyl-3-aminobutyric acid
To a cooled solution of 3-aminobutyric acid (13 g) in 2M NaOH (130 ml) is added benzoyl chloride (19.7 g) over the course of two hours. The mixture is allowed to warm to room temperature. Washing with diethyl ether, acidifying of the aqueous phase with 20% HCI, extraction with diethyl ether, drying over MgSO4, evaporation of the solvent and recrystallization in ether/hexane gives the title compound m.p. 150°-152° C. (compound 1.16, Table 1).

reactant | 3-aminobutyric acid | 13 g | NC(CC(=O)O)C | C4H9NO2
reactant | benzoyl chloride | 19.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | NaOH | 2M, 130 ml | [OH-].[Na+]
product | N-benzoyl-3-aminobutyric acid | C(C1=CC=CC=C1)(=O)NC(CC(=O)O)C | C11H13NO3
